US07419988B2
N,N-dimethyl-2-{3-(4-nitrophenyl)-4-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-4-yl]-1H-pyrazol-1-yl}ethanamine
Following the procedure described for Intermediate 100 using 1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine and 2-[4-bromo-3-(4-nitrophenyl)-1H-pyrazol-1-yl]-N,N-dimethylethanamine provided the title compound. ESMS [M+H]+: 517.2.

reactant | 1-(phenylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2B2OC(C(O2)(C)C)(C)C | C19H21BN2O4S
reactant | 2-[4-bromo-3-(4-nitrophenyl)-1H-pyrazol-1-yl]-N,N-dimethylethanamine | BrC=1C(=NN(C1)CCN(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C13H15BrN4O2
product | N,N-dimethyl-2-{3-(4-nitrophenyl)-4-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-4-yl]-1H-pyrazol-1-yl}ethanamine | CN(CCN1N=C(C(=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-])C | C26H24N6O4S
